US07572820B2
B. 3-Fluoro-2-methyl-4-(trifluoromethyl)-1-({5-[3-(trifluoromethyl)phenyl]-1,2,4-oxadiazol-3-yl}methyl)-1H-indole-5-carbonitrile
Synthesized as described in Example 23 from 3-fluoro-2-methyl-4-(trifluoromethyl)-1H-indole-5-carbonitrile and 3-(chloromethyl)-5-[3-(trifluoromethyl)phenyl]-1,2,4-oxadiazole: MS (ES) m/z 469 (M+1).

reactant | 3-fluoro-2-methyl-4-(trifluoromethyl)-1H-indole-5-carbonitrile | FC1=C(NC2=CC=C(C(=C12)C(F)(F)F)C#N)C | C11H6F4N2
reactant | 3-(chloromethyl)-5-[3-(trifluoromethyl)phenyl]-1,2,4-oxadiazole | ClCC1=NOC(=N1)C1=CC(=CC=C1)C(F)(F)F | C10H6ClF3N2O
product | 3-Fluoro-2-methyl-4-(trifluoromethyl)-1-({5-[3-(trifluoromethyl)phenyl]-1,2,4-oxadiazol-3-yl}methyl)-1H-indole-5-carbonitrile | FC1=C(N(C2=CC=C(C(=C12)C(F)(F)F)C#N)CC1=NOC(=N1)C1=CC(=CC=C1)C(F)(F)F)C | C21H11F7N4O
